US06797718B2
1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl [(2E)-3-Phenylprop-2-enyl]Ether
Sodium hydride (0.41 g, 10.24 mmol, 60% in mineral oil) and anhydrous N,N-dimethylformamide (10 mL) were combined and stirred for 5 minutes under nitrogen. A solution of 1-[2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethan-2-ol (2.9 g, 9.752 mmol) from Part G of Example 7 in N,N-dimethylformamide (15 mL) was then added to the sodium hydride over 5 minutes. After stirring the resulting reaction solution for 10 minutes at room temperature, a solution of cinnamyl bromide (2.11 g, 10.73 mmol) in N,N-dimethylformamide (15 mL) was added to the reaction solution, and the resulting reaction mixture was stirred for 4 hours and 10 minutes. Sodium hydride (0.10 g, 60% in mineral oil) and then cinnamyl bromide (0.1 g) were added to the reaction mixture, and after stirring for 30 minutes, HPLC monitoring of the reaction mixture indicated about 9% starting material remaining. The reaction mixture was concentrated under reduced pressure, and the resulting oil was dissolved in dichloromethane. The dichloromethane solution was washed with saturated ammonium chloride (3×), water (3×), and brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a white solid, which contained about 6% starting material by HPLC analysis. The white solid was passed through a column of silica (120 g, 40×200 mm) using 95/5 ethyl acetate/dichloromethane. The isolated product was triturated with diethyl ether, filtered off, and dried to provide 2.9 g of product with no starting material. This was carried on to the next step.

reactant | Sodium hydride | 10.24 mmol, 0.41 g | [H-].[Na+]
reactant | 1-[2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethan-2-ol | 9.752 mmol, 2.9 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCO | C17H19N3O2
reactant | cinnamyl bromide | 10.73 mmol, 2.11 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | Sodium hydride | 0.10 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | cinnamyl bromide | 0.1 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl [(2E)-3-Phenylprop-2-enyl]Ether | 2.9 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOC\C=C\C1=CC=CC=C1 | C26H27N3O2
